US07709481B2
500 mg 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-but-3-en-1-ol were dissolved in 50 ml ethyl acetate. 50 mg palladium (5% on charcoal) were added and the reaction mixture stirred at room temperature under a hydrogen atmosphere. After three hours the catalyst was filtered off and the filtrate evaporated in vacuo to obtain 490 mg 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-butan-1-ol as a white solid.

reactant | 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-but-3-en-1-ol | 500 mg | FC(C(O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C)(C=C)F | C14H11F5N2OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 50 mg | [Pd] | Pd
product | 2,2-Difluoro-1-[4-methyl-2-(6-trifluoromethyl-pyridin-3-yl)-thiazol-5-yl]-butan-1-ol | 490 mg | FC(C(O)C1=C(N=C(S1)C=1C=NC(=CC1)C(F)(F)F)C)(CC)F | C14H13F5N2OS
